### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Sum): add `LocallyFinite (G ⊕g H)` instance

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 1]
```diff
@@ -155,4 +155,19 @@ theorem chromaticNumber_sum :
...
+  ext (v' | w') <;> simp
+
+noncomputable instance [LocallyFinite G] [LocallyFinite H] : LocallyFinite (G ⊕g H) := by
+  rintro (v | w)
+  · simp only [neighborSet_sum_inl]
+    apply Set.Finite.fintype
+    apply Finite.Set.finite_image
+  · simp only [neighborSet_sum_inr]
+    apply Set.Finite.fintype
+    apply Finite.Set.finite_image
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]:
```suggestion
  rintro (v | w) <;> simp only [neighborSet_sum_inl, neighborSet_sum_inr] <;>
    exact Set.Finite.fintype <| Finite.Set.finite_image _ _
```

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 2]
```diff
@@ -155,4 +155,14 @@ theorem chromaticNumber_sum :
...
 
+lemma neighborSet_sum_inl (v : V) : (G ⊕g H).neighborSet (.inl v) = Sum.inl '' G.neighborSet v := by
+  ext (v' | w') <;> simp
+
+lemma neighborSet_sum_inr (w : W) : (G ⊕g H).neighborSet (.inr w) = Sum.inr '' H.neighborSet w := by
+  ext (v' | w') <;> simp
+
+noncomputable instance [LocallyFinite G] [LocallyFinite H] : LocallyFinite (G ⊕g H) := by
+  rintro (v | w) <;> simp only [neighborSet_sum_inl, neighborSet_sum_inr] <;>
+    exact Set.Finite.fintype <| Finite.Set.finite_image _ _
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: With `DecidableEq` this can be computable
```suggestion
instance [DecidableEq V] [DecidableEq W] [LocallyFinite G] [LocallyFinite H] :
    LocallyFinite (G ⊕g H) := by
  rintro (v | w) <;> simp only [neighborSet_sum_inl, neighborSet_sum_inr] <;>
    infer_instance
```

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
